* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.1.52 on 2022/09/01.
* Author: L. Schindler
* Version: 3.0
* Last modification date: 30 August 2022
* Last modification by: T. Hall
* Copyright (c) 2018-2022 Lieze Schindler, Tessa Hall, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
* For questions about the library, contact Tessa Hall, 19775539@sun.ac.za.
* The cell is not designed to be connected directly to passive transmission lines.
*$Ports  a b clk q
.subckt THmitll_NDRO a b clk q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=1.80
.param B3=2.01
.param B4=2.5
.param B5=1.64
.param B6=2.58
.param B7=0.90
.param B8=2.30
.param B9=2.5
.param B10=1.77
.param B11=2.5
.param IB1=175u
.param IB2=139u
.param IB3=175u
.param IB4=158u
.param IB5=175u
.param IB6=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param L1=1.8663p
.param L2=3.1100p
.param L3=2.8212p
.param L4=1.7117p
.param L5=2.7767p
.param L6=3.6623p
.param L7=1.4501p
.param L8=2.0153p
.param L9=1.3783p
.param L10=3.2508p
.param L11=3.3341p
.param L12=1.6989p
.param LP1=LP
.param LP3=LP
.param LP4=LP
.param LP6=LP
.param LP8=LP
.param LP9=LP
.param LP11=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet
.param LRB11=(RB11/Rsheet)*Lsheet+LP
B1 1 2 jjmit  area=B1 
B2 4 5 jjmit  area=B2 
B3 5 6 jjmit  area=B3 
B4 9 10 jjmit  area=B4 
B5 12 13 jjmit  area=B5 
B6 13 14 jjmit  area=B6 
B7 8 15 jjmit  area=B7 
B8 18 19 jjmit  area=B8 
B9 20 21 jjmit  area=B9 
B10 23 18 jjmit  area=B10 
B11 24 25 jjmit  area=B11 
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 7 pwl(0 0 5p IB2)
IB3 0 11 pwl(0 0 5p IB3)
IB4 0 17 pwl(0 0 5p IB4)
IB5 0 22 pwl(0 0 5p IB5)
IB6 0 26 pwl(0 0 5p IB6)
LB1 3 1 7.35E-013 
LB2 7 5 7.798E-013 
LB3 11 9 1.023E-012 
LB4 17 16 1.981E-012 
LB5 22 20 6.382E-013 
LB6 26 24 1.181E-012 
L1 a 1 1.861E-012 
L2 1 4 3.103E-012 
L3 5 8 2.808E-012 
L4 b 9 1.712E-012 
L5 9 12 2.775E-012 
L6 13 8 3.652E-012 
L7 15 16 1.455E-012 
L8 16 18 2.018E-012 
L9 clk 20 1.37E-012 
L10 20 23 3.239E-012 
L11 18 24 3.321E-012 
L12 24 q 1.698E-012 
LP1 2 0 4.356E-013 
LP3 6 0 4.322E-013 
LP4 10 0 3.473E-013 
LP6 14 0 3.698E-013 
LP8 19 0 4.794E-013 
LP9 21 0 3.788E-013 
LP11 25 0 4.491E-013 
RB1 1 101 RB1  
LRB1 101 0 LRB1 
RB2 4 104 RB2  
LRB2 104 5 LRB2 
RB3 5 105 RB3  
LRB3 105 0 LRB3 
RB4 9 109 RB4  
LRB4 109 0 LRB4 
RB5 12 112 RB5  
LRB5 112 13 LRB5 
RB6 13 113 RB6  
LRB6 113 0 LRB6
RB7 8 108 RB7  
LRB7 108 15 LRB7 
RB8 18 118 RB8  
LRB8 118 0 LRB8 
RB9 20 120 RB9  
LRB9 120 0 LRB9 
RB10 23 123 RB10  
LRB10 123 18 LRB10 
RB11 24 124 RB11  
LRB11 124 0 LRB11 
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=2.25
.param b2=2.25
.param b3=ic
.param ib1=275u
.param ib2=b3*ic0*biascoef
.param lb1=lb
.param lb2=lb
.param l1=1p
.param l2=3.9p
.param l3=0.6p
.param l4=1.1p
.param l5=4.5p
.param l6=phi0/(4*ic*ic0)
.param lp2=lp
.param lp3=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param rb3=b0rs/b3
.param lrb1=(rb1/rsheet)*lsheet
.param lrb2=(rb2/rsheet)*lsheet+lp
.param lrb3=(rb3/rsheet)*lsheet+lp
b1 2 3 jjmit  area=b1
b2 5 6 jjmit  area=b2
b3 7 8 jjmit  area=b3
ib1 0 4 pwl(0 0 5p ib1)
ib2 0 9 pwl(0 0 5p ib2)
lb1 4 3 2.825e-012
lb2 9 7 2.942e-012
l1 a 1 1.672e-012
l2 1 0 3.901e-012
l3 1 2 5.953e-013
l4 3 5 1.1e-012
l5 5 7 4.542e-012
l6 7 q 2.012e-012
lp2 6 0 3.924e-013
lp3 8 0 3.841e-013
rb1 2 102 rb1
lrb1 102 3 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
rb3 7 107 rb3
lrb3 107 0 lrb3
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pwl(0 0 150p 0 153p 600u 156p 0 250p 0 253p 600u 256p 0 280p 0 283p 600u 286p 0 540p 0 543p 600u 546p 0 600p 0 603p 600u 606p 0 640p 0 643p 600u 646p 0 780p 0 783p 600u 786p 0)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
I_b 0 4 pwl(0 0 350p 0 353p 600u 356p 0 450p 0 453p 600u 456p 0 480p 0 483p 600u 486p 0 560p 0 563p 600u 566p 0 580p 0 583p 600u 586p 0 660p 0 663p 600u 666p 0 740p 0 743p 600u 746p 0)
XSOURCEINb SOURCECELL 4 5
XLOADINb LOADINCELL 5 6
I_clk 0 7 pulse(0 600u 20p 2p 2p 1p 100p)
XSOURCEINclk SOURCECELL 7 8
XLOADINclk LOADINCELL 8 9
XLOADOUTq LOADOUTCELL 10 11
XSINKOUTq SINKCELL 11
XDUT THmitll_NDRO 3 6 9 10
.tran 0.025p 1000p 0
.print i(L1.XDUT) p(B1.XDUT) i(L4.XDUT) p(B4.XDUT) i(L9.XDUT) p(B9.XDUT) p(B11.XDUT) p(B1.XLOADOUTq) 
.end
